US08609208B2
In a reactor under an N2-atmosphere, 100 ml of a 1.3M THF solution of isopropyl magnesium chloride/lithium chloride complex (130 mmol) was added and then stirred at room temperature, 28.7 g (100 mmol) of 4-bromo-2,3′,5′-trifluoro-1,1′-biphenyl was slowly added, and then the mixture was stirred at room temperature for 2 hours. Next, while the mixture was cooled to 5-15° C. by an ice bath, dried CO2 gas was blown in without heat generation. The reaction solution was poured in 200 ml of 2N HCl(aq) and extracted by diethyl ether. After the organic layer was collected, washed by saturated saline and dried by anhydrous magnesium sulfate, it was filtered to remove the insoluble substance and concentrated under a reduced pressure. The residue was purified by a fractionation operation utilizing column chromatography, with ethyl acetate as an eluent solvent and silica gel as a filler. The product was further purified by recrystallization using heptane/ethanol in a volume ratio of 30/70, so that 10.3 g of 2,3′,5′-trifluoro-1,1′-biphenyl-4-carboxylic acid was obtained as a white solid.

reactant | THF | 1.3M | C1CCOC1 | C4H8O
reactant | 4-bromo-2,3′,5′-trifluoro-1,1′-biphenyl | 100 mmol, 28.7 g | BrC1=CC(=C(C=C1)C1=CC(=CC(=C1)F)F)F | C12H6BrF3
reactant | CO2 | C(=O)=O | CO2
solvent | HCl | 2N, 200 ml | Cl | ClH
product | 2,3′,5′-trifluoro-1,1′-biphenyl-4-carboxylic acid | 10.3 g | FC1=C(C=CC(=C1)C(=O)O)C1=CC(=CC(=C1)F)F | C13H7F3O2
